US04163787
To a cooled solution (10°-15° C.) of 2.0 grams (0.009 mole) of cyano(6-phenoxy-2-pyridine)methanol and 2.0 grams (0.009 mole) of 2,2-dimethyl-3-(2,2-dichloroethenyl)cyclopropane carboxylic acid chloride in 25 milliliters of anhydrous ether was added 1 milliliter of triethylamine. A white precipitate separated out immediately. The reaction mixture was stirred at room temperature for one-half (1/2) hour. The mixture was diluted with 50 milliliters of water and extracted thoroughly with ether. The ether extract was washed with water, dried over anhydrous magnesium sulfate and concentrated under vacuo to give 3.4 grams of crude 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropane carboxylic acid:cyano(6-phenoxy-2-pyridinyl)methyl ester product as a thick brown oil. This oil was purified by distillation under reduced pressure to give 1.8 grams of a light brown oil boiling at 190°-200° C. at 0.1-0.2 milliliters of mercury (mm). The oil had a refractive index of n(25/D)=1.5264. The structure of the product was confirmed by its nuclear magnetic resonance spectrum (NMR). Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 60.28, 4.47 and 6.62 percent, respectively, as compared with the theoretical contents of 60.44, 4.35 and 6.71 percent respectively, as calculated for the above compound. (Compound No. 1).

reactant | 2,2-dimethyl-3-(2,2-dichloroethenyl)cyclopropane carboxylic acid chloride | 0.009 mole, 2.0 grams | CC1(C(C1C=C(Cl)Cl)C(=O)Cl)C | C8H9Cl3O
reactant | triethylamine | 1 milliliter | C(C)N(CC)CC | C6H15N
reactant | ether | 25 milliliters | CCOCC | C4H10O
product | 3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropane carboxylic acid | 3.4 grams | ClC(=CC1C(C1C(=O)O)(C)C)Cl | C8H10Cl2O2
